US06794395B1
(1) 6-methoxycarbonylmethylamino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone
Prepared from 6-amino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone and methyl bromoacetate

reactant | 6-amino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone | NC1=CC=C2/C(/C(NC2=C1)=O)=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)CN1CCCCC1 | C27H28N4O
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | 6-methoxycarbonylmethylamino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone | COC(=O)CNC1=CC=C2/C(/C(NC2=C1)=O)=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)CN1CCCCC1 | C30H32N4O3
